US06635657B1
A. 1-Benzylpyrrolidine-3-methanol
To a mixture of methyl 1-benzylpyrrolidine-3-carboxylate (11.67 g, 50 mmol) and tetrahydrofuran, at 0° C. was added lithium aluminum hydride (3.795 g, 100 mmol). The reaction was warmed to room temperature and refluxed for 24 hours. After cooling to 0° C., the reaction was quenched with saturated sodium sulfate and warmed to room temperature. Tetrahyrofuran (50 mL) and solid sodium sulfate were added to the mixture. After stirring for 1 hour, the mixture was filtered and the filtrate was concentrated and vacuum dried for 3 days to give the title compound as a colorless oil (8.49 g, 88%).

reactant | methyl 1-benzylpyrrolidine-3-carboxylate | 50 mmol, 11.67 g | C(C1=CC=CC=C1)N1CC(CC1)C(=O)OC | C13H17NO2
reactant | lithium aluminum hydride | 100 mmol, 3.795 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzylpyrrolidine-3-methanol | 8.49 g, 88% | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
